US05362733
5-[(3,4-Dihydroxy-5-nitrophenyl)methylidene]-4 -thioxothiazolidin-2-one
A solution containing 0.67 g (0.005 mol) of 4-thioxothiazolidin-2-one, 0.92 g (0.005 mol) of 3,4-dihydroxy -5-nitrobenzaldehyde and 0.05 ml of piperidine in 10 ml of acetic was heated for 8 h at 100° C. The product was filtered and washed with 2-propanol. Yield 1.14 g (76.5%), mp>350° C. (decomp.).

reactant | 4-thioxothiazolidin-2-one | 0.005 mol, 0.67 g | S=C1NC(SC1)=O | C3H3NOS2
reactant | 3,4-dihydroxy -5-nitrobenzaldehyde | 0.005 mol, 0.92 g | OC=1C=C(C=O)C=C(C1O)[N+](=O)[O-] | C7H5NO5
reactant | piperidine | 0.05 ml | N1CCCCC1 | C5H11N
solvent | acetic | 10 ml | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
product | 5-[(3,4-Dihydroxy-5-nitrophenyl)methylidene]-4 -thioxothiazolidin-2-one | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=C1C(NC(S1)=O)=S | C10H6N2O5S2
